US04400509
Using the procedure of Example 19, 1.78 g (10 mmoles) of 1-phenyl-5-mercapto-1H-tetrazole in 50 ml of 1,2-dichloroethane was silylated with 2.60 ml (12.4 mmoles) of hexamethyldisilazane with 5 mg (0.03 mmole) of saccharin as the catalyst and the calculated amount of ammonia was collected within 20 minutes. Reflux was continued for another 10 minutes and then the mixture was evaporated to dryness and the residue was dried to obtain 2.58 g (103%) of 1-phenyl-5-trimethylsilylthio-1H-tetrazole with a melting point of 67°-68° C.

reactant | 1-phenyl-5-mercapto-1H-tetrazole | 10 mmoles, 1.78 g | C1(=CC=CC=C1)N1N=NN=C1S | C7H6N4S
reactant | hexamethyldisilazane | 12.4 mmoles, 2.60 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
solvent | 1,2-dichloroethane | 50 ml | ClCCCl | C2H4Cl2
catalyst | saccharin | 0.03 mmole, 5 mg | S1(=O)(=O)NC(=O)C2=CC=CC=C12 | C7H5NO3S
product | 1-phenyl-5-trimethylsilylthio-1H-tetrazole | 2.58 g, 103% | C1(=CC=CC=C1)N1N=NN=C1S[Si](C)(C)C | C10H14N4SSi
